US06093732
3-(3-{[(4-Chlorobenzyl)amino]carbonyl}-8-fluoro-4-hydroxy-6-quinolinyl)propyl 2-amino-3-methylbutanoate
3-(3-{[(4-Chlorobenzyl)amino]carbonyl}-8-fluoro-4-hydroxy-6-quinolinyl)propyl 2-[(tert-butoxycarbonyl)amino]-3-methylbutanoate from Example No. 146 (0.13 g) is stirred in a mixture of 4 mL trifluoroacetic acid and 7 mL CH2Cl2 at 0° C. for approximately 1.5 h. Once the reaction is complete, the mixture is partitioned between CH2Cl2 and saturated NaHCO3. After the TFA is neutralized, any undissolved material is filtered off. The organic layer is washed once with water. The combined aqueous layers are back-extracted with CH2Cl2 and EtOAc. The organics are combined, dried over Na2SO4, filtered, and concentrated in vacuo to give a white solid. The solid is recrystallized from a minimal amount of EtOH. (0.040 g, 0.082 mmol, 35%).

reactant | 3-(3-{[(4-Chlorobenzyl)amino]carbonyl}-8-fluoro-4-hydroxy-6-quinolinyl)propyl 2-[(tert-butoxycarbonyl)amino]-3-methylbutanoate | C(C)(C)(C)OC(=O)NC(C(=O)OCCCC=1C=C2C(=C(C=NC2=C(C1)F)C(=O)NCC1=CC=C(C=C1)Cl)O)C(C)C | C30H35ClFN3O6
solvent | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
product | 3-(3-{[(4-Chlorobenzyl)amino]carbonyl}-8-fluoro-4-hydroxy-6-quinolinyl)propyl 2-amino-3-methylbutanoate | NC(C(=O)OCCCC=1C=C2C(=C(C=NC2=C(C1)F)C(=O)NCC1=CC=C(C=C1)Cl)O)C(C)C | C25H27ClFN3O4
